US08217032B2
[4-(2-Azepan-1-yl-ethoxy)-phenyl]-[2-(2,6-difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-methanone
Charge a flask with trifluoromethanesulfonic acid 1-[4-(2-azepan-1-yl-ethoxy)-benzoyl]-6-methoxynaphthalen-2-yl ester (3.9 g, 7.06 mmol), 2,6-difluorophenyl boronic acid (2.23 g, 14.12 mmol), potassium phosphate (9.0 g, 42.20 mmol) and tetrakis(triphenylphosphine)palladium (0) (1.63 g, 1.40 mmol) followed by 125 mL dry DMF. Heat the mixture under nitrogen at 100° C. for 90 minutes. Cool, filter, evaporate the solvent and purify on an SCX cartridge, eluting with 2N ammonia/methanol. Purify further on a silica gel column eluting with 0-10% methanol/methylene chloride. The yield is 2.5 g (70%): 1H-NMR (CDCl3, 400 MHz) δ 7.90 (d, J=8.4 Hz, 1H); 7.66-7.61 (m, 3H); 7.39 (d, J=8.4 Hz, 1H); 7.23-7.22 (m, 1H); 7.18-7.08 (m, 2H); 6.79-6.74 (m, 4H); 4.08-4.05 (t, 2H); 3.95 (s, 3H); 2.96-2.89 (t, 2H); 2.78-2.75 (m, 4H); 1.66-1.59 (m, 8H).

reactant | trifluoromethanesulfonic acid 1-[4-(2-azepan-1-yl-ethoxy)-benzoyl]-6-methoxynaphthalen-2-yl ester | 7.06 mmol, 3.9 g | N1(CCCCCC1)CCOC1=CC=C(C(=O)C2=C(C=CC3=CC(=CC=C23)OC)OS(=O)(=O)C(F)(F)F)C=C1 | C27H28F3NO6S
reactant | 2,6-difluorophenyl boronic acid | 14.12 mmol, 2.23 g | FC1=C(C(=CC=C1)F)B(O)O | C6H5BF2O2
reactant | potassium phosphate | 42.20 mmol, 9.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 1.40 mmol, 1.63 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
product | [4-(2-Azepan-1-yl-ethoxy)-phenyl]-[2-(2,6-difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-methanone | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(=O)C1=C(C=CC2=CC(=CC=C12)OC)C1=C(C=CC=C1F)F | C32H31F2NO3
